US07217710B2
A solution of methyl hydrazine (4.0 g, 0.087 mol, 2 eq) in ethanol (50 mL) was slowly added to a solution of ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate (10 g, 0.043 mol) in ethanol (50 mL) while keeping the reaction temperature below 15° C. After the addition was completed, the reaction mixture was stirred for 2 hours at the room temperature. Water (100 mL) was then added and the formed product was isolated by filtration. After drying, the product was recrystalized from a 1:1 toluene-hexane mixture to give 7.3 g (69%) of the desired 4-(N-methyl-hydrazino)-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester; LC/MS (m/e)=243.1 (MH+), Rt=1.15 min.

reactant | methyl hydrazine | 0.087 mol, 4.0 g, 2 eq | CNN | CH6N2
reactant | ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate | 0.043 mol, 10 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | Water | 100 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-(N-methyl-hydrazino)-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 7.3 g, 69% | C(C)OC(=O)C=1C(=NC(=NC1)SC)N(N)C | C9H14N4O2S
